US09260425B2
Step 3: 5-Bromo-3-methyl-1H-pyrazolo[3,4-c]pyridine
To a 150 mL sealed flask containing 50 mL dry ethylene glycol was dissolved 1-(2-bromo-5-fluoro-4-pyridinyl)ethanone (8.2 g, 37.6 mmol). Added dropwise via syringe next was anhydrous hydrazine (1.24 mL, 39.5 mmol). The stirred light yellow mixture was sealed, and heated at 165° C. After 3.5 h, the orange-tan reaction mixture was removed from heating. After cooling to room temperature, the contents were poured onto a stirring mixture of 300 g ice/water (1:1), wherein solid precipitation occurred. After stirring for 10 min, the off-white precipitate was collected. This solid was dried in vacuo and collected 5-Bromo-3-methyl-1H-pyrazolo[3,4-c]pyridine as an off-white solid (7.9 g, 99%). ESI MS m/z=212 (M+1).

reactant | 1-(2-bromo-5-fluoro-4-pyridinyl)ethanone | 37.6 mmol, 8.2 g | BrC1=NC=C(C(=C1)C(C)=O)F | C7H5BrFNO
reactant | hydrazine | 39.5 mmol, 1.24 mL | NN | H4N2
solvent | ethylene glycol | 50 mL | C(CO)O | C2H6O2
product | 5-Bromo-3-methyl-1H-pyrazolo[3,4-c]pyridine | BrC=1C=C2C(=CN1)NN=C2C | C7H6BrN3
